US04801710
Step 2: 2-Chloro-6-benzyloxypurine
Sodium spheres (250 mg, 10.87 mmol) and benzyl alcohol (2 ml, 19.33 mmol) were mixed and vigorously stirred under N2 at 60°-100° (oil-bath) until all the sodium had dissolved (30 minutes) The mixture was cooled to room temperature and a suspension of 2-chloro-6-trimethylammoniopurinide (100 g, .73 mmol) in sieve-dried DMSO (10 ml) was added. This was stirred at room temperature under N2 for 13/4 hours and the reaction mixture was then added dropwise to ice-H2O (100 ml). The pH of the solution was adjusted to 7.0 using lM HCl and the white solid which formed was filtered off, washing well on the pad with H2O. This material was dried in vacuo over P2O5 at room temperature to give 0 mg (79.5% yield) of product. An analytical sample was obtained by recrystallizing from ethanol-H2O and drying the product in vacuo. Analysis Calculated for:

reactant | Sodium | [Na] | Na
reactant | benzyl alcohol | 19.33 mmol, 2 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 2-chloro-6-trimethylammoniopurinide | .73 mmol, 100 g | ClC1=NC(=C2[N-]C=NC2=N1)[N+](C)(C)C | C8H10ClN5
reactant | HCl | Cl | ClH
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 2-Chloro-6-benzyloxypurine | 0 mg, 79.5% yield | ClC1=NC(=C2NC=NC2=N1)OCC1=CC=CC=C1 | C12H9ClN4O
